US04096263
(1-methyl-1H-tetrazol-5-yl)aminoacetaldehyde diethyl acetal (21.5 g.) and 3,4-dihydroxyphenethylamine hydrochloride (14.6 g.) were added to a mixture of ethanol (130 ml.) and water (35 ml.), and dissolved with heating and stirring. Conc. hydrochloric acid (10.5 ml.) was added thereto and the mixture was refluxed for 8 hours. The reaction mixture was treated with activated charcoal. The charcoal was filtered and washed with ethanol, after which the filtrate and the washings were combined and concentrated under reduced pressure. The residual crystals were recrystallized from a mixture of water and isopropyl alcohol and the obtained crystals (22.5 g.) were warmed for 16 hours at 60° C under reduced pressure to remove excess hydrogen chloride. The crystals were recrystallized from a mixture of a small amount of water, methanol and ether to give 1-(1-methyl-1H-tetrazol-5-yl)aminomethyl-6,7-dihydroxy-1,2,3,4-tetrahydroisoquinoline hydrochloride trihemihydrate (15 g.), mp 107° to 110° C. Infrared Absorption Spectrum (Nujol) 1604, 1460 cm-1.

reactant | (1-methyl-1H-tetrazol-5-yl)aminoacetaldehyde diethyl acetal | 21.5 g | C(C)OC(CNC1=NN=NN1C)OCC | C8H17N5O2
reactant | 3,4-dihydroxyphenethylamine hydrochloride | 14.6 g | Cl.OC=1C=C(CCN)C=CC1O
reactant | hydrochloric acid | 10.5 ml | Cl | ClH
reactant | charcoal | C | CH4
solvent | water | 35 ml | O | H2O
solvent | ethanol | 130 ml | C(C)O | C2H6O
product | 1-(1-methyl-1H-tetrazol-5-yl)aminomethyl-6,7-dihydroxy-1,2,3,4-tetrahydroisoquinoline hydrochloride | Cl.CN1N=NN=C1NCC1NCCC2=CC(=C(C=C12)O)O | InChI=1S/C12H16N6O2.ClH/c1-18-12(15-16-17-18)14-6-9-8-5-11(20)10(19)4-7(8)2-3-13-9;/h4-5,9,13,19-20H,2-3,6H2,1H3,(H,14,15,17);1H
